US07834063B2
C. 4-[(2,2-Dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile
To a solution of 4-[(2,2-dimethylpropyl)(2-oxoethyl)amino]-2-(trifluoromethyl)benzonitrile (0.882 g, 2.96 mmol) in MeOH (10 mL) at 0° C. was added NaBH4 (0.112 g, 2.96 mmol) in one portion and the mixture was stirred overnight, slowly warming to rt. The mixture was cooled to 0° C., sat'd NH4Cl (1 mL) was added and the mixture was concentrated in vacuo. The residue was partitioned between EtOAc/water and the layers were separated. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording 0.829 g of the title compound as a colorless syrup which solidified on standing: MS (ESI) m/z 301 (M+1).

reactant | 4-[(2,2-dimethylpropyl)(2-oxoethyl)amino]-2-(trifluoromethyl)benzonitrile | 2.96 mmol, 0.882 g | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC=O)(C)C | C15H17F3N2O
reactant | NaBH4 | 2.96 mmol, 0.112 g | [BH4-].[Na+]
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | MeOH | 10 mL | CO | CH4O
product | 4-[(2,2-Dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.829 g | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCO)(C)C | C15H19F3N2O
